US05854245
To a 500 mL round bottomed flask with a stirring bar, was added 5-nitrothiophene-2-carboxylic acid (4.62 g, 26.68 mmol) and MeOH (100 mL). This solution was cooled in an ice bath and dry HCl gas was bubbled through the solution till saturated. The reaction was equipped with a condensor and a drying tube and refluxed overnight. The solvent was then removed in vacuo to a yellow solid, which was then dissolved in EtOAc. This solution was washed with NaHCO3 (sat, aq) (3×), and brine (2×), dried (MgSO4), and filtered. Removal of the solvents in vacuo and drying of the product in vacuo yielded methyl 5-nitrothiophene-2-carboxylate as a tan solid.

reactant | 5-nitrothiophene-2-carboxylic acid | 26.68 mmol, 4.62 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 5-nitrothiophene-2-carboxylate | [N+](=O)([O-])C1=CC=C(S1)C(=O)OC | C6H5NO4S
